US05219847
II-2-1: Synthesis of 3-undecanoylpyridine
To anhydrous ether was added 3.60 g of magnesium for Grignard reaction, and 36.5 g of 1-bromodecane was dropwise added while stirring. After the magnesium was completely dissolved, a diethyl ether solution of 15.6 g (0.15 mol) of 3-cyanopyridine was dropwise added and the mixture was refluxed for 4 hours. After cooling, saturated ammonium chloride solution was added, the diethyl ether layer was separated, and the aqueous layer was further extracted with diethyl ether. The ether layers was combined, washed with water, and then dried over anhydrous sodium sulfate. After concentration under a reduced pressure, the product was purified by separation by silica gel chromatography (ethyl acetate:hexane=1:4) to obtain 12.2 g of the desired product (yield 32.9%).

reactant | magnesium | 3.60 g | [Mg] | Mg
reactant | 1-bromodecane | 36.5 g | BrCCCCCCCCCC | C10H21Br
reactant | 3-cyanopyridine | 0.15 mol, 15.6 g | C(#N)C=1C=NC=CC1 | C6H4N2
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | ether | CCOCC | C4H10O
product | 3-undecanoylpyridine | 12.2 g, yield 32.9% | C(CCCCCCCCCC)(=O)C=1C=NC=CC1 | C16H25NO
